US08685969B2
2. 6,9-Dibromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
A suspension of ethyl 6,9-dibromo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (2.70 g, 6.72 mmol) in ethanol (25 mL) was treated with a solution of potassium hydroxide (15.07 g, 269 mmol) in water (15 mL) and ethanol (50 mL). The dark brown mixture was bubbled with nitrogen with sonication for 1 min. The mixture was then heated under nitrogen to 90-100° C. for 44 h, then at reflux for 23 h more. The solution was cooled to room temperature and concentrated under vacuum. The residual aqueous sludge was diluted with water (about 100 mL), stirred and intermittently sonicated for 1 h, and the precipitate was collected by filtration, washed thoroughly with water and dried under vacuum to provide the desired product as a light reddish-brown powder (2.123 g, 96% yield). LCMS (M+H+) m/z 329, 331, 333).

reactant | ethyl 6,9-dibromo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 6.72 mmol, 2.70 g | BrC1=CC=C(C=2C3=C(NC12)CCN(C3)C(=O)OCC)Br | C14H14Br2N2O2
reactant | potassium hydroxide | 269 mmol, 15.07 g | [OH-].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6,9-Dibromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.123 g, 96% yield | BrC1=CC=C(C=2C3=C(NC12)CCNC3)Br | C11H10Br2N2
